US06624163B2
4-[(2-Methoxy-acetylamino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminometyl-benzamide (100 mg, 0.24 mmol), dissolved in dichloromethane (5 ml) is treated with pyridine (29 μl, 0.36 mmol) and methoxy-acetyl chloride (24 μl, 0.32 mmol) and stirred at ambient temperature for 15 h. Saturated aqueous sodium carbonate (6 ml) is added, the phases are separated and the aqueous solution extracted twice with each 5 ml dichloromethane. The combined organic phases are dryed over sodium sulphate, filtered and evaporated to dryness. Flash chromatography (silica, eluent: dichloromethane containing 3% methanol) afforded the title compound as white crystals (71% yield). MS: m/e=471(M+H+).

reactant | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-4-aminometyl-benzamide | 0.24 mmol, 100 mg | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC=C(C=C2)CN)=O)N2CCOCC2 | C20H22N4O3S
reactant | pyridine | 0.36 mmol, 29 μl | N1=CC=CC=C1 | C5H5N
reactant | methoxy-acetyl chloride | 0.32 mmol, 24 μl | COCC(=O)Cl | C3H5ClO2
reactant | sodium carbonate | 6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 4-[(2-Methoxy-acetylamino)-methyl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-benzamide | 71% yield | COCC(=O)NCC1=CC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C23H26N4O5S
